US08211908B2
To a solution of 0.60 g of N-(2-propyn-1-yl)-1-(trifluoroacetyl)piperidin-4-amine in 5.2 mL of dioxane, 0.56 g of di-tert-butyl dicarbonate was added and the mixture was stirred at room temperature for 1 hour 45 minutes. The solvent was distilled off under reduced pressure, and the resultant residue was purified by silica gel column chromatography using an elution with hexane:ethyl acetate=3:1 to obtain 0.70 g of tert-butyl (2-propyn-1-yl)(1-(trifluoroacetyl)piperidin-4-yl)carbamate as a colorless oily substance.

reactant | N-(2-propyn-1-yl)-1-(trifluoroacetyl)piperidin-4-amine | 0.60 g | C(C#C)NC1CCN(CC1)C(C(F)(F)F)=O | C10H13F3N2O
reactant | di-tert-butyl dicarbonate | 0.56 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 5.2 mL | O1CCOCC1 | C4H8O2
product | tert-butyl (2-propyn-1-yl)(1-(trifluoroacetyl)piperidin-4-yl)carbamate | 0.70 g | C(C#C)N(C(OC(C)(C)C)=O)C1CCN(CC1)C(C(F)(F)F)=O | C15H21F3N2O3
